### PR TITLE
Roosterize formatting suggestions

### PR DESCRIPTION
**Pull request by palmskog**
@anton-trunov here is the PR with our formatting suggestions for the whole project. As discussed, we don't expect you to merge this, but hope you can do a review describing what you think about the proposed changes. We are interested in general comments ("patterns") and some specific examples with respect to:

1. good suggestions
2. bad suggestions, 
3. new or interesting insights given by the suggestions

Note that this was generated based on training data from mathcomp, fourcolor, odd-order, and finmap, so the style implicit in those projects is what is used. We hope you can use the GitHub review mechanism to pinpoint some examples.

Thank you!

### CODE REVIEW

File: finmap/finmap.v [hunk 1]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
 (******************************************************************************)
 
 From Coq Require Import ssreflect ssrbool ssrfun.
-From mathcomp Require Import ssrnat eqtype seq path.
+From mathcomp
```
Comment (anton-trunov) [inline finmap/finmap.v]: Most (all?) files in math-comp/math-comp repository put the list of imported modules on the same line with `From mathcomp`. Here we stick to that convention.

File: finmap/finmap.v [hunk 2]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+Require Import ssrnat eqtype seq path.
 From fcsl Require Import ordtype.
+
```
Comment (anton-trunov) [inline finmap/finmap.v]: Adding an empty line between imports and settings seems to be a good idea as it improves readability.

File: finmap/finmap.v [hunk 3]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 Set Implicit Arguments.
 Unset Strict Implicit.
-Unset Printing Implicit Defensive. 
+Unset Printing Implicit Defensive.
+
+Section Def.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Empty line after `Section` declaration is also a welcome change.

File: finmap/finmap.v [hunk 4]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 
-Section Def. 
 Variables (K : ordType) (V : Type).
 
 Definition key (x : K * V) := x.1.
 Definition value (x : K * V) := x.2.
-Definition predk k := preim key (pred1 k).  
+
```
Comment (anton-trunov) [inline finmap/finmap.v]: Grouping of simple related definitions sometimes makes sense. Here I would leave the four definitions either grouped together as they already are (no empty lines in between) or format those like so
```coq
Definition key (x : K * V) := x.1.
Definition value (x : K * V) := x.2.

Definition predk k := preim key (pred1 k).
Definition predCk k := preim key (predC1 k).
```

File: finmap/finmap.v [hunk 5]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+Definition predk k := preim key (pred1 k).
+
 Definition predCk k := preim key (predC1 k).
 
 Record finMap := FinMap {
-  seq_of : seq (K * V); 
-  _ : sorted ord (map key seq_of)}.
+  seq_of : seq (K * V);
+  _ : sorted ord (map key seq_of)
+}.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Indeed, putting `}.` on a new line seems idiomatic.

File: finmap/finmap.v [hunk 6]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 
 Definition finMap_for of phant (K -> V) := finMap.
 
 Identity Coercion finMap_for_finMap : finMap_for >-> finMap.
+
```
Comment (anton-trunov) [inline finmap/finmap.v]: Yes, a new line before the end of a section makes sense stylistically.

File: finmap/finmap.v [hunk 7]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 
 Prenex Implicits key value predk predCk seq_of.
 
-Section Ops.     
+Section Ops.
+
 Variables (K : ordType) (V : Type).
-Notation fmap := (finMap K V). 
-Notation key := (@key K V). 
+Notation fmap := (finMap K V).
```
Comment (anton-trunov) [inline finmap/finmap.v]: Well spotted, I should remove all the trailing whitespace globally.

File: finmap/finmap.v [hunk 8]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+Notation key := (@key K V).
 Notation value := (@value K V).
 Notation predk := (@predk K V).
-Notation predCk := (@predCk K V). 
+Notation predCk := (@predCk K V).
 
 Lemma fmapE (s1 s2 : fmap) : s1 = s2 <-> seq_of s1 = seq_of s2.
 Proof.
-split=>[->|] //.
+split=> [->|] //.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Adding whitespace after `=>` makes the proof more legible.

File: finmap/finmap.v [hunk 9]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 move: s1 s2 => [s1 H1] [s2 H2] /= H.
-by rewrite H in H1 H2 *; rewrite (bool_irrelevance H1 H2).
-Qed.   
+by rewrite H in H1 H2 *; rewrite (bool_irrelevance H1 H2). Qed.
```
Comment (anton-trunov) [inline finmap/finmap.v]: I'd reject this change: `Qed.` should be put on the same line with a tactic only if the line contains `Proof.`

File: finmap/finmap.v [hunk 10]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
 
-Lemma sorted_nil : sorted ord (map key [::]). Proof. by []. Qed.
+Lemma sorted_nil : sorted ord (map key [::]).
```
Comment (anton-trunov) [inline finmap/finmap.v]: Mathcomp contains more than 600 (six hundred) lines of this pattern: `Lemma ... Proof ... Qed`. So as long as the character count is within the 80 char. limit, I'd leave this line intact.

File: finmap/finmap.v [hunk 11]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
-Lemma sorted_ins' s k v : 
-        sorted ord (map key s) -> sorted ord (map key (ins' k v s)). 
-Proof.
-case: s=>// [[k' v']] s /= H.
-case: ifP=>//= H1; first by rewrite H H1.
-case: ifP=>//= H2; first by rewrite (eqP H2).
-by rewrite path_ins' //; move: (total k k'); rewrite H1 H2.
-Qed.
+Definition fnd k (s : fmap) :=
+  if (filter (predk k) (seq_of s)) is (_, v) :: _ then Some v else None.
```
Comment (anton-trunov) [inline finmap/finmap.v]: I'm not sure about this one. If the condition of an `if`-expression is short, then yes, `if ... then ... else ...` formatting (all on the same line) makes sense.
Sometimes I see
```coq
if <long-condition>
then ... else ...
```
in mathcomp.

File: finmap/finmap.v [hunk 12]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+
+Fixpoint ins' (k : K) (v : V)
+  (s : seq (K * V)) {struct s} :
+  seq (K * V) :=
+  if s is (k1, v1) :: s1 then
```
Comment (anton-trunov) [inline finmap/finmap.v]: This is less readable than the original. The variant here fails to convey clearly the structure of this nested `if`-expression.

File: finmap/finmap.v [hunk 13]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+      if ord k k1 then (k, v) :: s else
+    if k == k1 then (k, v) :: s1 else (k1, v1) :: (ins' k v s1) else [:: (k, v)].
+
+Lemma path_ins' s k1 k2 v :
+  ord k1 k2 -> path ord k1 (map key s) ->
```
Comment (anton-trunov) [inline finmap/finmap.v]: This indentation of the lemma statement certainly makes it idiomatic.

File: finmap/finmap.v [hunk 14]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+  path ord k1 (map key (ins' k2 v s)).
+Proof.
+  elim: s k1 k2 v => [|[k' v'] s IH] k1 k2 v H1 /=; first by rewrite H1.
```
Comment (anton-trunov) [inline finmap/finmap.v]: This should *not* get indented

File: finmap/finmap.v [hunk 15]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+case/andP=> H2 H3; case: ifP => /= H4; first by rewrite H1 H3 H4.
+  case: ifP => H5 /=; first by rewrite H1 (eqP H5) H3.
```
Comment (anton-trunov) [inline finmap/finmap.v]: These two lines should *not* get indented as well

File: finmap/finmap.v [hunk 16]
```diff
@@ -17,86 +17,95 @@ limitations under the License.
...
+  by rewrite H2 IH //; move: (total k2 k'); rewrite H4 H5. Qed.
+
+Lemma sorted_ins' s k v :
+  sorted ord (map key s) ->
```
Comment (anton-trunov) [inline finmap/finmap.v]: This vertical alignment in the case when the premise and the conclusion are very similar (and not very short) makes it easier to read the statement.

File: finmap/finmap.v [hunk 17]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-Variables (K : ordType) (V : Type). 
-Notation fmap := (finMap K V). 
+
+Variables (K : ordType) (V : Type).
+Notation fmap := (finMap K V).
 Notation nil := (nil K V).
 
-Lemma ord_path (x y : K) s : ord x y -> path ord y s -> path ord x s.
+Lemma ord_path (x y : K) s :
+  ord x y -> path ord y s -> path ord x s.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Moving the lemma statement on a separate line increases readability.

File: finmap/finmap.v [hunk 18]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-Qed.
+elim: s x y => [|k s IH] x y //=.
+by move=> H1; case/andP=> H2->; rewrite (trans H1 H2). Qed.
 
-Lemma last_ins' (x : K) (v : V) s : 
-        path ord x (map key s) -> ins' x v s = (x, v) :: s.
-Proof. by elim: s=>[|[k1 v1] s IH] //=; case: ifP. Qed.
+Lemma last_ins' (x : K) (v : V) s :
+  path ord x (map key s) -> ins' x v s = (x, v) :: s.
+Proof. by elim: s => [|[k1 v1] s IH] //=; case: ifP. Qed.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Adding whitespace to both sides of `=>` when it is used after a variable looks more idiomatic (although there is a bunch of places in mathcomp where there is no whitespace after a variable)

File: finmap/finmap.v [hunk 19]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
 
-Lemma first_ins' (k : K) (v : V) s : 
-        (forall x, x \in map key s -> ord x k) -> 
-        ins' k v s = rcons s (k, v).
+Lemma first_ins' (k : K) (v : V) s :
+  (forall x, x \in map key s -> ord x k) -> ins' k v s = rcons s (k, v).
```
Comment (anton-trunov) [inline finmap/finmap.v]: Indentation looks good to me, but combining the premise and the conclusion on the same line is arguable.

File: finmap/finmap.v [hunk 20]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
 Proof.
-elim: s=>[|[k1 v1] s IH] H //=.
+elim: s=> [|[k1 v1] s IH] H //=.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Adding whitespace in places like this one improves readability.

File: finmap/finmap.v [hunk 21]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-elim: s1 P1 s2 P2 H=>[|[k v] s1 IH] /= P1.
-- by case=>[|[k2 v2] s2 P2] //=; move/(_ k2); rewrite eq_refl.
+  by apply: IH; apply: ord_path T2. Qed.
+
+Lemma path_supp_ord (s : fmap) k :
+  path ord k (supp s) ->
+  forall m, m \in supp s -> ord k m.
+Proof.
+case: s => s H; rewrite /supp /= => H1 m H2; case: totalP H1 H2 => //.
+-
```
Comment (anton-trunov) [inline finmap/finmap.v]: Subgoal markers (like `-`) shouldn't appear on their own.

File: finmap/finmap.v [hunk 22]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+Lemma predkN (k1 k2 : K) :
+  predI (predk V k1) (predCk V k2) =1
+  if k1 == k2 then pred0 else predk V k1.
+Proof.
+by move=> x; case: ifP => H /=; [|case: eqP =>//->]; rewrite ?(eqP H) ?andbN ?H. Qed.
 
 CoInductive supp_spec x (s : fmap) : bool -> Type :=
-| supp_spec_some v of fnd x s = Some v : supp_spec x s true
-| supp_spec_none of fnd x s = None : supp_spec x s false. 
+  | supp_spec_some v of fnd x s = Some v : supp_spec x s true
```
Comment (anton-trunov) [inline finmap/finmap.v]: Indentation before `|` symbol is a wanted change. (Incidentally, I `CoInductive` should be replaced with `Variant`).

File: finmap/finmap.v [hunk 23]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+rewrite /supp /fnd in E *; case: s E => /=.
+elim=> [|[y w] s IH] H1 //=.
+  case: ifP=> H; first by rewrite (eqP H) inE eq_refl.
+rewrite -topredE /= eq_sym H; apply: IH. by apply: path_sorted H1.
+case: s; elim=> [|[y w] s IH] /= H1 //; rewrite /supp /= inE in IH *.
+case: eqP => [-> _|H] //=.
+-
+by apply: (@supp_spec_some _ _ w); rewrite /fnd /= eq_refl.
+move: (path_sorted H1)=> H1'; move/(IH H1'); case=> [v H2|H2]; [ apply: (@supp_spec_some _ _ v)
+| apply: supp_spec_none];
```
Comment (anton-trunov) [inline finmap/finmap.v]:
```coq
[ apply: (@supp_spec_some _ _ v)
| apply: supp_spec_none];
```
does *not* look particularly nice

File: finmap/finmap.v [hunk 24]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+  case: (totalP k2 k3) H2 => //= H2 _. by rewrite IH //; apply: path_sorted H. Qed.
+
+Lemma rem_supp k (s : fmap) : k \notin supp s -> rem k s = s.
 Proof.
 case: s => s H1; rewrite /supp !fmapE /= => H2.
-elim: s H1 H2=>[|[k1 v1] s1 IH] //=; move/path_sorted=>H1.
-rewrite inE negb_or; case/andP=>H2; move/(IH H1)=>H3.
-by rewrite eq_sym H2 H3.
-Qed.
+elim: s H1 H2 => [|[k1 v1] s1 IH] //=; move/path_sorted=> H1.
```
Comment (anton-trunov) [inline finmap/finmap.v]: `move/view=> var` also looks better than `move/view=>var`

File: finmap/finmap.v [hunk 25]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-rewrite inE negb_or (negbTE H1); case/andP=>H5 H6.
-rewrite (negbTE H5); case: ifP=>H7 /=.
-- by case=>E; rewrite E eq_refl in H1.
-by case=>->-> H; congr (_ :: _); apply: IH1 H.
-Qed.
+Lemma fnd_supp_in k (s : fmap) : k \in supp s -> exists v, fnd k s = Some v.
+Proof. by case: suppP=> [v|]; [exists v|]. Qed.
+
+Lemma cancel_ins k v (s1 s2 : fmap) :
+   k \notin (supp s1) -> k \notin (supp s2) -> ins k v s1 = ins k v s2 -> s1 = s2.
```
Comment (anton-trunov) [inline finmap/finmap.v]: I would format this like so:
```coq
   k \notin (supp s1) -> k \notin (supp s2) ->
   ins k v s1 = ins k v s2 ->
  s1 = s2.
```
or in a similar manner, breaking up this long line.

File: finmap/finmap.v [hunk 26]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+elim: s1 k v s2 => [k v s2 |[k1 v1] s1 IH1 k v s2] /=.
+-
+case: s2 => [|[k2 v2] s2] //= _.
+rewrite inE negb_or; case/andP=> H1 _; case: ifP => // _.
+by rewrite (negbTE H1); case=> E; rewrite E eq_refl in H1.
+rewrite inE negb_or; case/andP=> H1 H2 H3.
+  case: ifP=> H4; case: s2 H3=> [|[k2 v2] s2] //=.
+-
+rewrite inE negb_or; case/andP=> H5 H6.
+  case: ifP=> H7; first by case=> ->-> ->.
```
Comment (anton-trunov) [inline finmap/finmap.v]: This looks non-uniform: `case=> ->-> ->.`. It should be `case=> -> -> ->.`.

File: finmap/finmap.v [hunk 27]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-have H6: sorted ord (map key s) by apply: path_sorted H5. 
-by move: (IH H6 k2 k v H H4); case: s {IH p H4 H5} H6.
-Qed.
+have H6: sorted ord (map key s) by apply: path_sorted H5.
+by move: (IH H6 k2 k v H H4); case: s {IH p H4 H5} H6. Qed.
 
-Lemma path_supp_ins_inv k1 k v (s : fmap) :
-        path ord k (supp s) -> path ord k1 (supp (ins k v s)) -> 
-        ord k1 k && path ord k1 (supp s).
+Lemma path_supp_ins_inv k1 k v (s : fmap) : path ord k (supp s) -> path ord k1 (supp (ins k v s)) ->
```
Comment (anton-trunov) [inline finmap/finmap.v]: Surprisingly enough, the tool didn't move the lemma's statement to a separate line (or lines).

File: finmap/finmap.v [hunk 28]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+
 Variables (K : ordType) (V : Type).
 Notation fmap := (finMap K V).
 Notation nil := (@nil K V).
 
 Lemma supp_eq_ins (s1 s2 : fmap) k1 k2 v1 v2 :
-        path ord k1 (supp s1) -> path ord k2 (supp s2) ->
-          supp (ins k1 v1 s1) =i supp (ins k2 v2 s2) -> 
-        k1 = k2 /\ supp s1 =i supp s2.
+    path ord k1 (supp s1) -> path ord k2 (supp s2) ->
```
Comment (anton-trunov) [inline finmap/finmap.v]: This line should be aligned with the next one.

File: finmap/finmap.v [hunk 29]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
+
+Lemma disj_fcat (s s1 s2 : fmap) :
+  disj s (fcat s1 s2) = disj s s1 && disj s s2.
+Proof.
+elim/fmap_ind': s s1 s2 => [|k v s L IH] s1 s2.
+-
+by rewrite !(disjC nil) !disj_nil.
+  rewrite !(disjC (ins _ _ _)) !disj_ins supp_fcat inE /= negb_or.
+case: (k \in supp s1)=> //=.
+case: (k \in supp s2)=> //=; first by rewrite andbF. by rewrite -!(disjC s) IH. Qed.
```
Comment (anton-trunov) [inline finmap/finmap.v]: Each proof-step should end with a dot, thus moving `by rewrite -!(disjC s) IH.` here should not be done.

File: finmap/finmap.v [hunk 30]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
-Proof. case: (mapk m)=>[s]I //=. Qed.
+Definition mapk (m : finMap A V) : finMap B V :=
+  foldfmap (fun p s => ins (f (key p)) (value p) s) (nil B V) m.
 
+Lemma sorted_mapk m : sorted ord (supp (mapk m)).
+Proof.
+case: (mapk m) => [s] I //=. Qed.
 
-Lemma path_mapk m k: path ord k (supp m) -> path ord (f k) (supp (mapk m)).
+Lemma path_mapk m k : path ord k (supp m) -> path ord (f k) (supp (mapk m)).
```
Comment (anton-trunov) [inline finmap/finmap.v]: Adding a whitespace character before `:` looks good.

File: finmap/finmap.v [hunk 31]
```diff
@@ -107,932 +116,906 @@ End Ops.
...
 
-Lemma mapk_ins k v s :
-   path  ord k (supp s) ->
-  mapk (ins k v s) = ins (f k) v (mapk s).
-Proof. by move=> H; rewrite /mapk foldf_ins =>//. Qed.
 End MapDef.
 Arguments mapk {A B V} f m.
 
-Variables (A B C : ordType)(V : Type)(f : A -> B) (g : B -> C).
+Variables (A B C : ordType) (V : Type) (f : A -> B) (g : B -> C).
```
Comment (anton-trunov) [inline finmap/finmap.v]: This whitespace change looks good too.

File: finmap/finmap.v [hunk 32]
```diff
@@ -1043,234 +1026,199 @@ Arguments mapk {A B V} f m.
...
 Variable (unit_f : V -> V).
-Variable (comm : commutative zip_f). 
-Variable (assoc : forall x y z, 
-  obind (zip_f x) (zip_f y z) = obind (zip_f^~ z) (zip_f x y)).
-Variable (unitL : forall x, zip_f (unit_f x) x = Some x). 
-Variable (unitE : forall x y, 
-  (exists z, zip_f x y = Some z) <-> unit_f x = unit_f y).
+
+Variable (comm : commutative zip_f).
+
```
Comment (anton-trunov) [inline finmap/finmap.v]: I would probably not add empty lines between these `Variable`s. Just like in the context Coq does not render hypotheses sparse.

File: finmap/finmap.v [hunk 33]
```diff
@@ -1043,234 +1026,199 @@ Arguments mapk {A B V} f m.
...
-    [::], [::] => Some [::]
-  | (k1, v1)::s1', (k2, v2)::s2' => 
-      if k1 == k2 then 
-        if zip_f v1 v2 is Some v then 
-          if zip' s1' s2' is Some s' then Some ((k1, v) :: s')
-          else None
-        else None
-      else None
+  match s1, s2 with [::], [::] => Some [::]
+  | (k1, v1) :: s1', (k2, v2) :: s2' =>
```
Comment (anton-trunov) [inline finmap/finmap.v]: 1. Personally, I prefer adding pipes (`|`) in front of each clause.
2. The structure of the nested `if`-expressions is lost.

File: finmap/finmap.v [hunk 34]
```diff
@@ -1043,234 +1026,199 @@ Arguments mapk {A B V} f m.
...
+        if k1 == k2 then
```
Comment (anton-trunov) [inline finmap/finmap.v]: The structure of the nested `if`-expressions has been lost.

File: finmap/finmap.v [hunk 35]
```diff
@@ -1043,234 +1026,199 @@ Arguments mapk {A B V} f m.
...
-  match s1, s2 with 
-    [::], [::] => Some [::]
-  | (k1, v1)::s1', (k2, v2)::s2' => 
-      if k1 == k2 then 
-        if zip_f v1 v2 is Some v then 
-          if zip' s1' s2' is Some s' then Some ((k1, v) :: s')
-          else None
-        else None
-      else None
+  match s1, s2 with [::], [::] => Some [::]
```
Comment (anton-trunov) [inline finmap/finmap.v]: The tool shouldn't put the first pattern on the same line with `with`-keyword.

File: finmap/ordtype.v [hunk 36]
```diff
@@ -19,20 +19,21 @@ limitations under the License.
...
+Module Ordered.
 
 Section RawMixin.
 
-Structure mixin_of (T : eqType) := 
-  Mixin {ordering : rel T; 
-         _ : irreflexive ordering;
-         _ : transitive ordering;
-         _ : forall x y, [|| ordering x y, x == y | ordering y x]}.
+Structure mixin_of (T : eqType) :=
```
Comment (anton-trunov) [inline finmap/ordtype.v]: 1. mathcomp usually (but not always) has the constructor of a structure on the same line with the structure name.
2. The tool didn't move `}` on a new line.

I would expect to see something like this:
```coq
Structure mixin_of (T : eqType) := Mixin {
  ordering : rel T; 
  _ : irreflexive ordering;
  _ : transitive ordering;
  _ : forall x y, [|| ordering x y, x == y | ordering y x]
}.

File: finmap/ordtype.v [hunk 37]
```diff
@@ -41,84 +42,88 @@ End RawMixin.
...
+
 Definition clone c of phant_id class c := @Pack T c.
 
 (* produce an ordered type out of the inherited mixins *)
 (* equalize m0 and m by means of a phantom; will be exploited *)
 (* further down in the definition of OrdType *)
-Definition pack b (m0 : mixin_of (EqType T b)) := 
-  fun m & phant_id m0 m => Pack (@Class T b m).
+Definition pack b (m0 : mixin_of (EqType T b)) :=
+  fun    m & phant_id m0 m => Pack (@Class T b m).
```
Comment (anton-trunov) [inline finmap/ordtype.v]: This whitespace addition seems unnecessary.

File: finmap/ordtype.v [hunk 38]
```diff
@@ -41,84 +42,88 @@ End RawMixin.
...
 
 Definition eqType := Eval hnf in EqType cT class.
 
 End ClassDef.
 
 Module Exports.
 Coercion sort : type >-> Sortclass.
-Coercion eqType : type >-> Equality.type.
+Coercion eqType    : type >-> Equality.type.
```
Comment (anton-trunov) [inline finmap/ordtype.v]: This whitespace addition seems unnecessary.

File: finmap/ordtype.v [hunk 39]
```diff
@@ -41,84 +42,88 @@ End RawMixin.
...
   (at level 0, format "[ 'ordType'  'of'  T  'for'  cT ]") : form_scope.
 Notation "[ 'ordType' 'of' T ]" := (@clone T _ _ id)
   (at level 0, format "[ 'ordType'  'of'  T ]") : form_scope.
 End Exports.
+
 End Ordered.
 Export Ordered.Exports.
 
-Definition oleq (T : ordType) (t1 t2 : T) := ord t1 t2 || (t1 == t2).
+Definition oleq (T : ordType) (t1 t2 : T) :=
```
Comment (anton-trunov) [inline finmap/ordtype.v]: I'm not sure about this one. I think we have used both styles -- the body of a definition on the same line just with `:=` and on the next line.

File: finmap/ordtype.v [hunk 40]
```diff
@@ -128,207 +133,201 @@ Lemma totalP x y : total_spec x y (ord x y) (x == y) (ord y x).
...
 
-Fixpoint ords x  : pred (seq T) :=
-  fun y => match x , y with
-                 | [::] , [::] => false
-                 | [::] ,  t :: ts => true
-                 | x :: xs , y :: ys => if x == y then ords xs ys 
-                                        else ord x y
-                 | _ :: _ , [::] => false  
-             end.
+Fixpoint ords x : pred (seq T) :=
```
Comment (anton-trunov) [inline finmap/ordtype.v]: Here the old and the new indentation don't look very nice.

File: finmap/ordtype.v [hunk 41]
```diff
@@ -128,207 +133,201 @@ Lemma totalP x y : total_spec x y (ord x y) (x == y) (ord y x).
...
+Let ordtt (x y : unit) := false.
 
 Lemma irr_tt : irreflexive ordtt.
 Proof. by []. Qed.
 
 Lemma trans_tt : transitive ordtt.
 Proof. by []. Qed.
 
-Lemma total_tt x y : [|| ordtt x y, x == y | ordtt y x ].
+Lemma total_tt x y : [|| ordtt x y, x == y | ordtt y x].
```
Comment (anton-trunov) [inline finmap/ordtype.v]: LTGM

File: finmap/ordtype.v [hunk 42]
```diff
@@ -128,207 +133,201 @@ Lemma totalP x y : total_spec x y (ord x y) (x == y) (ord y x).
...
-by case E: (_ \notin _) (@seq_last_in _ s a)=>//= ->. 
-Qed.
-
-
-
-
+case: totalP=> //=; case E: (last x s \in s)=> //.
+by move/negbT/seq_last_in: E => ->; rewrite irr. Qed.
 
+Lemma seq_last_mono (A : ordType) (s1 s2 : seq A) x : path oleq x s1 -> path oleq x s2 -> {subset s1 <= s2} -> oleq (last x s1) (last x s2).
```
Comment (anton-trunov) [inline finmap/ordtype.v]: This edit makes it a very long line.

File: pcm/automap.v [hunk 43]
```diff
@@ -108,24 +109,23 @@ Qed.
 (* The context of keys is thus seq K. The context of vars is seq U.      *)
 
 Section ReflectionContexts.
-Variables (K : ordType) (T : Type) (U : union_map_class K T).
 
-Structure ctx := Context {keyx : seq K; varx : seq U}.
+Variables (K : ordType) (T : Type) (U : union_map_class K T).
 
-Definition empx := Context [::] [::]. 
+Structure ctx := Context {
```
Comment (anton-trunov) [inline pcm/automap.v]: this doesn't seem necessary, mathcomp often has short simple structures on one line

File: pcm/automap.v [hunk 44]
```diff
@@ -158,128 +158,143 @@ End ReflectionContexts.
...
 
 (* interpretation function for elements *)
-Definition interp' i t := 
-  match t with
-    Pts n v => if onth (keyx i) n is Some k then pts k v else um_undef
-  | Var n => if onth (varx i) n is Some f then f else um_undef
+Definition interp' i t :=
+  match t with Pts n v =>
+    if onth (keyx i) n is Some k then pts k v else um_undef
+  | Var n => if onth (varx i) n is Some f then f
```
Comment (anton-trunov) [inline pcm/automap.v]: this makes it harder to read the if-expression

File: pcm/automap.v [hunk 45]
```diff
@@ -586,56 +598,54 @@ Notation untag := Syntactify.untag.
...
-          valid (Unit \+ y \\-> v1 \+ h \+ x \\-> v1) -> 
-          valid (x \\-> v2 \+ Unit).
-Proof. apply: validX. Abort.
-
+Example ex0 (x y z : nat) (v1 v2 : nat) h :
+  valid (Unit \+ y \\-> v1 \+ h \+ x \\-> v1) ->
+  valid (x \\-> v2 \+ Unit).
+Proof.
+apply: validX.
+Abort.
```
Comment (anton-trunov) [inline pcm/automap.v]: I'd prefer to have `Proof. apply: validX. Abort.`

File: pcm/automap.v [hunk 46]
```diff
@@ -586,56 +598,54 @@ Notation untag := Syntactify.untag.
...
 End Exports.
-End ValidX.
 
-Export ValidX.Exports. 
+End ValidX.
+Export ValidX.Exports.
```
Comment (anton-trunov) [inline pcm/automap.v]: Agreed. Removing an empty line here makes it idiomatic.

File: pcm/automap.v [hunk 47]
```diff
@@ -644,33 +654,34 @@ Export ValidX.Exports.
...
-         dom_eq (pprint k (rev rs1)) (pprint k rs2) -> 
-         dom_eq (untag f1) (untag f2). 
+Lemma domeqO j k rs1 rs2 ts1 ts2 (f1 : form (empx U) j ts1) (f2 : form j k ts2) :
+   subtract ts1 ts2 [::] = (rs1, rs2) ->
+  dom_eq (pprint k (rev rs1)) (pprint k rs2) ->
+  dom_eq (untag f1) (untag f2).
 Proof.
-case: f1 f2=>f1 [<- _ A1][f2][<- S A2]. 
-case/(subtract_sound (sc_wf S A1) A2)=>// ys [/= D1 D2].
+case: f1 f2 => f1[<- _ A1] [f2] [<- S A2].
```
Comment (anton-trunov) [inline pcm/automap.v]: 1. Adding whitespace between square brackets looks good.
2. The tool shouldn't remove the whitespace character after `f1`.

File: pcm/lift.v [hunk 48]
```diff
@@ -30,22 +32,22 @@ Record mixin_of (T : Type) := Mixin {
   ounit_op : T;
   ojoin_op : T -> T -> option T;
   ojoinC_op : forall x y, ojoin_op x y = ojoin_op y x;
-  ojoinA_op : forall x y z, 
-    obind (ojoin_op x) (ojoin_op y z) = obind (ojoin_op^~ z) (ojoin_op x y);
-  ounitL_op : forall x, ojoin_op ounit_op x = Some x}.
+  ojoinA_op : forall x y z, obind (ojoin_op x) (ojoin_op y z) = obind (ojoin_op^~ z) (ojoin_op x y);
```
Comment (anton-trunov) [inline pcm/lift.v]: this is good, unless it violates the 80 char. limit

File: pcm/lift.v [hunk 49]
```diff
@@ -185,26 +176,24 @@ Proof. by []. Qed.
...
 
 Definition downE := (down_join, join_undef, valid_down).
 
-CoInductive liftjoin_spec (x y : lift A) : _ -> _ -> _ -> Type := 
-| upcase1 n1 n2 of x = up n1 & y = up n2 : 
-    liftjoin_spec x y (if ojoin n1 n2 is Some u then up u else down) x y 
-| invalid1 of ~~ valid (x \+ y) : liftjoin_spec x y down x y.
+CoInductive liftjoin_spec (x y : lift A) : _ -> _ -> _ -> Type :=
+  | upcase1 n1 n2 of x = up n1 & y = up n2 :
+  liftjoin_spec x y (if ojoin n1 n2 is Some u then up u else down) x y
```
Comment (anton-trunov) [inline pcm/lift.v]: this line should be indented more

File: pcm/lift.v [hunk 50]
```diff
@@ -213,29 +202,28 @@ Local Definition ounit := 0.
 Lemma ojoinC x y : ojoin x y = ojoin y x.
 Proof. by rewrite /ojoin addnC. Qed.
 
-Lemma ojoinA x y z : 
-        obind (ojoin x) (ojoin y z) = obind (ojoin^~ z) (ojoin x y).
-Proof. by rewrite /obind/ojoin /= addnA. Qed.
+Lemma ojoinA x y z :
+  obind (ojoin x) (ojoin y z) = obind (ojoin^~ z) (ojoin x y).
+Proof. by rewrite /obind /ojoin /= addnA. Qed.
```
Comment (anton-trunov) [inline pcm/lift.v]: good catch!

File: pcm/mutex.v [hunk 51]
```diff
@@ -239,52 +247,44 @@ Proof. by case: x. Qed.
...
-
-Lemma mxE1 :  ((@mx_undef T == nown) = false) * 
-              ((@nown T == mx_undef) = false) *
-              ((@mx_undef T == own) = false) *
-              ((@own T == mx_undef) = false) *
-              ((@nown T == own) = false) *
-              ((@own T == nown) = false).
+Implicit Types (t : T) (x : mutex T).
+
+Lemma mxE1 : ((@mx_undef T == nown) = false) * ((@nown T == mx_undef) = false) * ((@mx_undef T == own) = false) * ((@own T == mx_undef) = false) * ((@nown T == own) = false) * ((@own T == nown) = false).
```
Comment (anton-trunov) [inline pcm/mutex.v]: I would prefer to have these equations unchanged (here and below).

File: pcm/mutex.v [hunk 52]
```diff
@@ -293,12 +293,9 @@ Lemma mx_valid_own : valid (@own T).
...
 Lemma mx_injE t1 t2 : (mx t1 == mx t2) = (t1 == t2).
-Proof. by []. Qed. 
+Proof. by []. Qed.
 
 Definition mxE := (mxE1, mxE2, mxE3, mxE4, mxE5, mx_injE,
-                   mx_valid, mx_valid_own,
-                   (* plus a bunch of safe simplifications *)
-                   unitL, unitR, valid_unit, eq_refl, 
-                   valid_undef, undef_join, join_undef).
+   mx_valid, mx_valid_own, (* plus a bunch of safe simplifications *) unitL, unitR, valid_unit, eq_refl, valid_undef, undef_join, join_undef).
```
Comment (anton-trunov) [inline pcm/mutex.v]: This should stay unmodified.

File: pcm/prelude.v [hunk 53]
```diff
@@ -44,190 +44,187 @@ Prenex Implicits Some_inj.
...
+Proof. by move=> ->. Qed.
 
-(* function splice *)
-Definition fsplice A B1 B2 (f1 : A -> B1) (f2 : A -> B2) := 
+Definition fsplice A B1 B2 (f1 : A -> B1) (f2 : A -> B2) :=
   fun x : A => (f1 x, f2 x).
 
-Notation "[ 'fs' f1 , f2 ]" := (fsplice f1 f2) 
-  (at level 0, format "[ 'fs'  f1 ,  f2 ]"). 
+Notation "[ 'fs' f1 , f2 ]" := (fsplice f1 f2) (at level 0, format "[ 'fs'  f1 ,  f2 ]").
```
Comment (anton-trunov) [inline pcm/prelude.v]: It seems both options are viable.

File: pcm/prelude.v [hunk 54]
```diff
@@ -44,190 +44,187 @@ Prenex Implicits Some_inj.
...
-  "'[hv' [ /\ '['  P1 , '/'  P2 , '/'  P3 , '/'  P4 , '/'  P5 , '/'  P6 ']' '/ '  &  P7 ] ']'").
-
-Reserved Notation "[ \/ P1 , P2 , P3 , P4 | P5 ]" (at level 0, format
-  "'[hv' [ \/ '['  P1 , '/'  P2 , '/'  P3 , '/'  P4 ']' '/ '  |  P5 ] ']'").
-Reserved Notation "[ \/ P1 , P2 , P3 , P4 , P5 | P6 ]" (at level 0, format
-  "'[hv' [ \/ '['  P1 , '/'  P2 , '/'  P3 , '/'  P4 , '/'  P5 ']' '/ '  |  P6 ] ']'").
-
-Reserved Notation "[ \/ P1 , P2 , P3 , P4 , P5 , P6 | P7 ]" (at level 0, format
-  "'[hv' [ \/ '['  P1 , '/'  P2 , '/'  P3 , '/'  P4 , '/'  P5 , '/'  P6 ']' '/ '  |  P7 ] ']'").
+Reserved Notation "[ /\ P1 , P2 , P3 , P4 , P5 & P6 ]" (at level 0, format "'[hv' [ /\ '['  P1 , '/'  P2 , '/'  P3 , '/'  P4 , '/'  P5 ']' '/ '  &  P6 ] ']'").
```
Comment (anton-trunov) [inline pcm/prelude.v]: These should stay unmodified.

File: pcm/prelude.v [hunk 55]
```diff
@@ -44,190 +44,187 @@ Prenex Implicits Some_inj.
...
 
 Inductive and6 (P1 P2 P3 P4 P5 P6 : Prop) : Prop :=
   And6 of P1 & P2 & P3 & P4 & P5 & P6.
+
 Inductive and7 (P1 P2 P3 P4 P5 P6 P7 : Prop) : Prop :=
   And7 of P1 & P2 & P3 & P4 & P5 & P6 & P7.
 
 Inductive or5 (P1 P2 P3 P4 P5 : Prop) : Prop :=
-  Or51 of P1 | Or52 of P2 | Or53 of P3 | Or54 of P4 | Or55 of P5.
+  Or51 of P1 | Or52 of P2
```
Comment (anton-trunov) [inline pcm/prelude.v]: this also should stay unchanged

File: pcm/prelude.v [hunk 56]
```diff
@@ -242,4 +239,4 @@ Lemma emptyset_eqP : Equality.axiom (fun _ _ : Empty_set => true).
 Proof. by case. Qed.
 
 Definition emptysetEqMix := EqMixin emptyset_eqP.
-Canonical emptysetEqType := Eval hnf in EqType Empty_set emptysetEqMix.
\ No newline at end of file
+Canonical emptysetEqType := Eval hnf in EqType Empty_set emptysetEqMix.
```
Comment (anton-trunov) [inline pcm/prelude.v]: This looks good

File: pcm/pcm.v [hunk 57]
```diff
@@ -264,32 +273,34 @@ Record mixin_of (U : pcm) := Mixin {
   (* next one doesn't hold of max PCM, so remove eventually *)
   _ : forall x y : U, x \+ y = Unit -> x = Unit /\ y = Unit;
 (* _ : forall x y z : U, valid (x \+ y \+ z) = 
-        [&& valid (x \+ y), valid (y \+ z) & valid (x \+ z)]; *)
+        [&& valid (x \+ y), valid (y \+ z) & valid (x \+ z)]; *)
```
Comment (anton-trunov) [inline pcm/pcm.v]: this trailing whitespace seems unnecessary to introduce

File: pcm/heap.v [hunk 58]
```diff
@@ -18,71 +18,75 @@ limitations under the License.
...
+Notation "x .+ i" := (ptr_offset x i)
+  (at level 3, format "x .+ i").
 
 Lemma ptrE x y : (x == y) = (nat_ptr x == nat_ptr y).
-Proof. by move: x y=>[x][y]. Qed.
+Proof. by move: x y=> [x] [y]. Qed.
 
-Lemma ptr0 x : x.+0 = x.
-Proof. by case: x=>x; rewrite /ptr_offset addn0. Qed.
+Lemma ptr0 x : x .+0 = x.
```
Comment (anton-trunov) [inline pcm/heap.v]: The tool should keep `.+` notation the way it was written.
